US05326910
A mixture of C3F7OCF(CF3)CF2OC(CF3)2CONH2 (3.81 g, 6.90 mmol) was heated with phosphorous pentoxide (9.02 g, 63.0 mmol) under nitrogen bypass at 214° C. for 3 hours. The distillate, collected during the heating period in 0° C. cooled receiver, was purified by fractionation in vacuum through traps held at -23°, -47°, -78°, and -196° C. The product, C3F7OCF(CF3)CF2OC(CF3)2CN, (3.42 g, 92% yield) VP0° C., 3 mmHg collected in the -23° and -47° C. traps was characterized by mass spectrometry. MS(70 eV) m/e (intensity, ion): 508 (2.7%, M-F), 458 (1.4%, M-C2F5), 342 (21.1%, M-C3F7O), 242 (33.9%, CF2OC(CF3)2CN), 192 (18.2%, OC(CF3)2CN), 176 (28.2%, C(CF3)2CN), 169 (100%, C3F7).

reactant | C3F7OCF(CF3)CF2OC(CF3)2CONH2 | 6.90 mmol, 3.81 g | C(F)(F)(C(F)(F)C(F)(F)F)OC(F)(C(F)(F)F)C(F)(F)OC(C(F)(F)F)(C(F)(F)F)C(=O)N | C10H2F19NO3
reactant | phosphorous pentoxide | 63.0 mmol, 9.02 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | C3F7OCF(CF3)CF2OC(CF3)2CN | 3.42 g, 92% yield | C(F)(F)(C(F)(F)C(F)(F)F)OC(F)(C(F)(F)F)C(F)(F)OC(C(F)(F)F)(C(F)(F)F)C#N | C10F19NO2
